US08420633B2
trans-1-[8-Chloro-1-(4-phenyl-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulen-5-yl]-ethanone
To a solution of trans-8-chloro-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene hydrochloride (0.090 g, 0.22 mmol) and triethylamine (0.063 ml, 0.46 mmol) in dichloromethane (5 ml) was added acetyl chloride (0.017 ml, 0.24 mmol) at room temperature. After stirring for 19 h the reaction mixture was concentrated in vacuo. Flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.082 g, 90%) as white solid. MS m/e: 421 (M+H+)

reactant | trans-8-chloro-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene hydrochloride | 0.22 mmol, 0.090 g | Cl.ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1
reactant | triethylamine | 0.46 mmol, 0.063 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.24 mmol, 0.017 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | trans-1-[8-Chloro-1-(4-phenyl-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulen-5-yl]-ethanone | 0.082 g, 90% | ClC1=CC2=C(N3C(=NN=C3CN(C2)C(C)=O)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C24H25ClN4O
